* SPICE3 file created from inv.ext - technology: sky130A

.subckt inv_pex vin vout vdd vss
X0 vout vin vss vss sky130_fd_pr__nfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
X1 vout vin vdd vdd sky130_fd_pr__pfet_01v8 ad=0.29 pd=2.58 as=0.29 ps=2.58 w=1 l=0.15
C0 vdd vout 0.273907f
C1 vss vout 0.102869f
C2 vdd vin 0.191064f
C3 vss vin 0.017227f
C4 vdd vss 0.005257f
C5 vout vin 0.163368f
C6 vdd 0 0.815242f
C7 vout 0 0.442391f
C8 vss 0 0.026556f
C9 vin 0 0.446699f
.ends
